US04699928
Solid 1-fluoro-2-bromomethyl-3-phthalimidopropene (0.60 g) is added to a previously prepared mixture of 2,4-dichlorophenol (0.33 g) and sodium hydride dispersion (96 mg of 55-60% oil dispersion) in dimethylformamide (10 ml) at room temperature. Stirring is continued for 3 hours, then brine is added and the product is isolated by ether extraction. The extracted material is essentially pure (Z)-1-fluoro-(2',4'-dichlorophenoxy)methyl -3-phthalimidopropene (0.67 g; 88% yield). A small portion is recrystallized from hexane/dichloromethane whereupon the analytical sample is obtained as colorless plates; mp. 115°-116° C.

reactant | 1-fluoro-2-bromomethyl-3-phthalimidopropene | 0.60 g | FC=C(CN1C(C=2C(C1=O)=CC=CC2)=O)CBr | C12H9BrFNO2
reactant | 2,4-dichlorophenol | 0.33 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | sodium hydride | [H-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (Z)-1-fluoro-(2',4'-dichlorophenoxy)methyl -3-phthalimidopropene | 0.67 g, 88% yield | F\C(=C/CN1C(C=2C(C1=O)=CC=CC2)=O)\COC2=C(C=C(C=C2)Cl)Cl | C18H12Cl2FNO3
